US04691027
5-Hydroxy-2,2,4,6,7-pentamethyl-1,3-benzoxathiole
A mixture of 4.8 g of 2-mercapto-3,5,6-trimethylhydroquinone, 1 g of p-toluenesulfonic acid, 10 g of molecular sieve 4A and 100 ml of acetone was heated under reflux for 5 hours under a stream of nitrogen. At the end of this time, the acetone was distilled off, and an aqueous solution of sodium bicarbonate was added to the residue. This mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled from the extract. Benzene was added to the resulting residue. Substances which were not soluble in benzene were filtered off, and crystals precipitating from the benzene solution were removed. The portion which was readily soluble in benzene was separated by silica gel column chromatography. The portion eluted with benzene was recrystallized from petroleum ether to yield 0.1 g of the title compound, melting at 62°-64.5° C.

reactant | 2-mercapto-3,5,6-trimethylhydroquinone | 4.8 g | SC1=C(O)C(=C(C(=C1C)O)C)C | C9H12O2S
reactant | p-toluenesulfonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 5-Hydroxy-2,2,4,6,7-pentamethyl-1,3-benzoxathiole | 0.1 g | OC=1C(=C(C2=C(SC(O2)(C)C)C1C)C)C | C12H16O2S
